US05739336
A mixture of 4-amino-1-[5-(5-chloro-2-methoxyphenyl)-5,5-ethylenedioxypentyl]piperidine-4-carbonitrile (5.2 g, 13.1 mmol), prepared as in Example 20, water (1.6 mL) and sulfuric acid (41 mL) was warmed approximately 5 minutes on a steam bath and then cooled to 0° C. and diluted with water (150 mL). The mixture was washed with ethyl acetate (2×), cooled to 0° C. treated with potassium hydroxide, filtered, washed with chloroform and extracted with methylene chloride (4×). The combined extracts were dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate/hexane to give 4-amino-1-[5-(5-chloro-2-methoxyphenyl)-5-oxopentyl]piperidine-4-carboxamide (4.2 g, 11.4 mmol). Free base (135 mg, 0.367 mmol) was recrystallized from a solution of hydrogen chloride in ethanol to give 4-amino-1-[5-(5-chloro-2-methoxyphenyl)-5-oxo-pentyl]piperidine-4-carboxamide hydrochloride (65 mg, 0.16 mmol).

reactant | 4-amino-1-[5-(5-chloro-2-methoxyphenyl)-5,5-ethylenedioxypentyl]piperidine-4-carbonitrile | 13.1 mmol, 5.2 g | NC1(CCN(CC1)CCCCC1(OCCO1)C1=C(C=CC(=C1)Cl)OC)C#N | C20H28ClN3O3
reactant | sulfuric acid | 41 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 150 mL | O | H2O
solvent | water | 1.6 mL | O | H2O
product | 4-amino-1-[5-(5-chloro-2-methoxyphenyl)-5-oxopentyl]piperidine-4-carboxamide | 11.4 mmol, 4.2 g | NC1(CCN(CC1)CCCCC(=O)C1=C(C=CC(=C1)Cl)OC)C(=O)N | C18H26ClN3O3
